US07049310B2
Preparation of (E)-N-methyl-3-(8-oxo-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]azepin-3-yl)acrylamide
A solution of 3-bromo-5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one (0.60 g, 2.50 mmole), N-(2-methyl-1H-indol-3-ylmethyl)-N-methylacrylamide (0.85 g, 3.75 mmole), Pd(OAc)2 (0.06 g, 0.25 mmole), tri-ortho-tolylphosphine (0.15 g, 0.50 mmole) and diisopropylethylamine (0.87 mL, 5.00 mmole) in propionitrile (50 mL) was deoxygenated, then was and heated to reflux under a N2 overnight. The dark mixture was filtered through a pad of celite®, and the filter pad was rinsed with acetonitrile (200 mL). The filtrate was concentrated in vacuo, and the residue was purified by flash chromatography on silica gel (10% MeOH/CHCl3). The title compound (0.35 g. 35%) was obtained as a light tan solid after drying in vacuo: MS (ES) m/e 246 (M+H)+.

reactant | 3-bromo-5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one | 2.50 mmole, 0.60 g | BrC1=CC2=C(NC(CCC2)=O)N=C1 | C9H9BrN2O
reactant | N-(2-methyl-1H-indol-3-ylmethyl)-N-methylacrylamide | 3.75 mmole, 0.85 g | CC=1NC2=CC=CC=C2C1CN(C(C=C)=O)C | C14H16N2O
reactant | tri-ortho-tolylphosphine | 0.50 mmole, 0.15 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 5.00 mmole, 0.87 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propionitrile | 50 mL | C(CC)#N | C3H5N
catalyst | Pd(OAc)2 | 0.25 mmole, 0.06 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-N-methyl-3-(8-oxo-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]azepin-3-yl)acrylamide | 0.35 g, 35% | CNC(\C=C\C1=CC2=C(NC(CCC2)=O)N=C1)=O | C13H15N3O2
